US04517184
By the reaction of 13.6 g (0.1 mol) of 2-methylbenzoic acid with 15.2 g (0.1 mol) of 1,2-dimethoxy-4-methylbenzene, analogously to Example 3(a), there is obtained (3,4-dimethoxy-6-methylphenyl)-(2-methylphenyl)-methanone as a brown resin-like product.

reactant | 2-methylbenzoic acid | 0.1 mol, 13.6 g | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | 1,2-dimethoxy-4-methylbenzene | 0.1 mol, 15.2 g | COC1=C(C=C(C=C1)C)OC | C9H12O2
product | (3,4-dimethoxy-6-methylphenyl)-(2-methylphenyl)-methanone | COC=1C=C(C(=CC1OC)C)C(=O)C1=C(C=CC=C1)C | C17H18O3
